US07241791B2
4-[1-(2,5-difluorophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.4 g, 1.6 mmol), sodium acetate (0.27 g, 3 mmol) and 2,5-difluorophenylhydrazine hydrochloride (0.45 g, 3 mmol) to give 0.107 g of product as an off-white colored solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 1.6 mmol, 0.4 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 3 mmol, 0.27 g | C(C)(=O)[O-].[Na+]
reactant | 2,5-difluorophenylhydrazine hydrochloride | 3 mmol, 0.45 g | Cl.FC1=C(C=C(C=C1)F)NN
product | 4-[1-(2,5-difluorophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol | 0.107 g | FC1=C(C=C(C=C1)F)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O | C19H12F2N2O3
